US06077845
5.4 g [1-(3-methoxy-phenyl)-3,4-dihydro-acridin-2-yl-methyl]-dimethylamine base were treated at room temperature with 40 ml methanesulfonic acid and 5.4 g methionine. The reaction mixture was stirred for ten days at 20° C. and was evaporated to dryness under vacuum. The solid was dissolved in water, the solution was covered with ethyl acetate, and the mixture was made alkaline with saturated sodium carbonate solution. The aqueous phase was extracted three times with 200 ml portions of ethyl acetate each time, and the combined organic phases were dried over magnesium sulfate and evaporated to dryness under vacuum. 2.4 g [3-(2-dimethylaminomethyl-3,4-dihydro-acridin-1-yl)]-phenol base were obtained. Dissolution of the yellow, amorphous solid in acetone with heating, followed by treating the solution with trimethylchlorosilane and water in equimolar amounts, gave 2.3 g [3-(2-dimethylaminomethyl-3,4-dihydro-acridin-1-yl)]-phenol hydrochloride (48% theoretical) in the form of light yellow crystals. (m.p.: >250° C.).

reactant | [1-(3-methoxy-phenyl)-3,4-dihydro-acridin-2-yl-methyl]-dimethylamine | 5.4 g | COC=1C=C(C=CC1)C1=C(CCC2=NC3=CC=CC=C3C=C12)CN(C)C | C23H24N2O
reactant | methionine | 5.4 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
solvent | methanesulfonic acid | 40 ml | CS(=O)(=O)O | CH4O3S
product | [3-(2-dimethylaminomethyl-3,4-dihydro-acridin-1-yl)]-phenol | 2.4 g | CN(C)CC1=C(C2=CC3=CC=CC=C3N=C2CC1)C=1C=C(C=CC1)O | C22H22N2O
